US04866064
In 100 ml of tetrahydrofurane, 5.4 g of the thus obtained 2-heptylthio-6-trimethylsilylethynyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one, and the solution was cooled to -65° C. in an acetone-dry ice bath. To the cooled solution, a solution of 0.93 g of tetrabutylammonium fluoride in 200 ml of tetrahydrofurane was added dropwise. The solution was stirred at -70~-65° C. for 1 hour. After the solution was brought to room temperature, the solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography using an ethyl acetate/toluene mixture as an eluent and thus 3.0 g of 6-ethynyl-2-heptylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-heptylthio-6-trimethylsilylethynyl-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | C(CCCCCC)SC1=NN2C(=NC=C(C2=O)C#C[Si](C)(C)C)S1 | C17H25N3OS2Si
reactant | tetrabutylammonium fluoride | 0.93 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 200 ml | O1CCCC1 | C4H8O
product | 6-ethynyl-2-heptylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 3.0 g, Yield 70% | C(#C)C1=CN=C2N(C1=O)N=C(S2)SCCCCCCC | C14H17N3OS2
